US06235731B1
3) Synthesis of (E)-1-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)propen-1-one dihydrochloride
In 2 ml of methanol was dissolved 0.159 g of (E)-1-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)propen-1-one, followed by addition of a stoichiometric excess of methanolic hydrochloric acid, and the mixture was stirred for 10 minutes. This reaction mixture was concentrated and crystallized from ethanol-diethyl ether to provide the title compound.

reactant | (E)-1-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)propen-1-one | 0.159 g | C1(=CC=CC=C1)CCCN1CCC(CC1)C(\C=C\C1=CC2=CN=C3C=CC=C(S1)N32)=O | C26H27N3OS
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | (E)-1-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)propen-1-one dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCN1CCC(CC1)C(\C=C\C1=CC2=CN=C3C=CC=C(S1)N32)=O | InChI=1S/C26H27N3OS.2ClH/c30-24(12-11-23-18-22-19-27-25-9-4-10-26(31-23)29(22)25)21-13-16-28(17-14-21)15-5-8-20-6-2-1-3-7-20;;/h1-4,6-7,9-12,18-19,21H,5,8,13-17H2;2*1H/b12-11+;;
